US06759554B2
3-(N-Hexyl)aminopyridine (FIG. 12, Entry 8)
Using the general procedure, 3-bromopyridine (96 μL, 1.0 mmol) was coupled with n-hexylamine (198 μL, 1.5 mmol) at 90° C. for 18 h. Purification of the crude product by column chromatography on silica gel using hexane/ethyl acetate (1:1) as eluent afforded the desired product as a colorless oil (146 mg, 82% yield). Rf=0.2 (hexane/ethyl acetate=2:1).

reactant | 3-bromopyridine | 1.0 mmol, 96 μL | BrC=1C=NC=CC1 | C5H4BrN
reactant | n-hexylamine | 1.5 mmol, 198 μL | C(CCCCC)N | C6H15N
product | 3-(N-Hexyl)aminopyridine | 146 mg, 82% yield | C(CCCCC)NC=1C=NC=CC1 | C11H18N2
